US07825128B2
(RS)—S-(4-{[4-(cyclohexylamino)-5-(1-methyl-1H-tetrazol-5-yl)pyrimidine-2-yl]-amino}phenyl)-S-methylsulfoximide
12 mg (0.024 mmol) (RS)—S-(4-{[4-(cyclohexylamino)-5-(1-methyl-1H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide (Ex. 3.2) in 1.2 ml ethanol are treated with 0.12 mL (0.18 mmol) of a freshly prepared 1.53 molar sodium ethanolate solution and stirred for 18 hrs at 70° C. The mixture is treated with saturated NaCl solution and extracted with THF. The combined organic phases are dried (Na2SO4), filtered and concentrated. The resulting residue is digested with MTB ether. 9 mg (0.021 mmol, corresponding to 86% of theor.) of the product is obtained.

reactant | (RS)—S-(4-{[4-(cyclohexylamino)-5-(1-methyl-1H-tetrazol-5-yl)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 0.024 mmol, 12 mg | C1(CCCCC1)NC1=NC(=NC=C1C1=NN=NN1C)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C22H29N9O3S
reactant | sodium ethanolate | 1.53 molar | C(C)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | 1.2 ml | C(C)O | C2H6O
product | (RS)—S-(4-{[4-(cyclohexylamino)-5-(1-methyl-1H-tetrazol-5-yl)pyrimidine-2-yl]-amino}phenyl)-S-methylsulfoximide | C1(CCCCC1)NC1=NC(=NC=C1C1=NN=NN1C)NC1=CC=C(C=C1)S(=O)(=N)C | C19H25N9OS
